US06117873
g) 5-Aminomethyl-2,3-dimethoxy-7-fluoroquinoxaline
3.5 g (13.3 mmol) of 5-azidomethyl-2,3-dimethoxy-7-fluoroquinoxaline in 35 ml of tetrahydrofuran are hydrogenated at room temperature for about 19 hours in the presence of 1.75 g of Raney nickel. The reaction mixture is filtered off and concentrated. The title compound is obtained as yellowish crystals.

reactant | 5-azidomethyl-2,3-dimethoxy-7-fluoroquinoxaline | 13.3 mmol, 3.5 g | N(=[N+]=[N-])CC1=C2N=C(C(=NC2=CC(=C1)F)OC)OC | C11H10FN5O2
solvent | tetrahydrofuran | 35 ml | O1CCCC1 | C4H8O
catalyst | Raney nickel | 1.75 g | [Ni] | Ni
product | 5-Aminomethyl-2,3-dimethoxy-7-fluoroquinoxaline | NCC1=C2N=C(C(=NC2=CC(=C1)F)OC)OC | C11H12FN3O2
